* gnetlist -g spice-sdb mosfet_test.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
RD 3 2 1  
IG 0 1 1m
VDS 3 0 DC 1V
MQ1 2 1 0 unknown 
.end
