* empty line for gnucap to work
.include lib/not_open_source/bs170.lib

* Spice netlister for gnetlist
RD 3 2 1
IGS 0 1 1mA
VDS 3 0 DC 1V
XBS1701 (2 1 0) BS170

.END
